US05567700
(S)-N-[2-(3,4-Dichlorophenyl)-4-[4-(2-thioxoperhydro-pyrimidin-1-yl)piperidino]butyl]-N-methylbenzamide dihydrochloride.
Using the procedure of Example 3, replacing 1,1'-carbonyldiimidazole by 1,1'-thiocarbonyldiimidazole, replacing (S)-N-[4-[4-(2-aminoethylamino)piperidino]-2-(3,4-dichlorophenyl)butyl]-N-methylbenzamide by (S)-N-[4-[4-(3-aminopropylamino)piperidino]-2-(3,4-dichlorophenyl)butyl]-N-methylbenzamide, and stirring overnight at room temperature instead of reflux, the title compound was obtained as a white solid; MS: m/z=533(M+1); Analysis for C27H34Cl2N4OS.2.30 HCl .0.10 (C2H5)2O: Calculated: C, 52.67; H, 6.01; N, 8.96; Found: C, 52.57; H, 6.11; N, 8.84.

reactant | 1,1'-thiocarbonyldiimidazole | C(=S)(N1C=NC=C1)N1C=NC=C1 | C7H6N4S
reactant | (S)-N-[4-[4-(3-aminopropylamino)piperidino]-2-(3,4-dichlorophenyl)butyl]-N-methylbenzamide | NCCCNC1CCN(CC1)CC[C@H](CN(C(C1=CC=CC=C1)=O)C)C1=CC(=C(C=C1)Cl)Cl | C26H36Cl2N4O
product | (S)-N-[2-(3,4-Dichlorophenyl)-4-[4-(2-thioxoperhydro-pyrimidin-1-yl)piperidino]butyl]-N-methylbenzamide dihydrochloride | Cl.Cl.ClC=1C=C(C=CC1Cl)[C@@H](CN(C(C1=CC=CC=C1)=O)C)CCN1CCC(CC1)N1C(NCCC1)=S | InChI=1S/C27H34Cl2N4OS.2ClH/c1-31(26(34)20-6-3-2-4-7-20)19-22(21-8-9-24(28)25(29)18-21)10-15-32-16-11-23(12-17-32)33-14-5-13-30-27(33)35;;/h2-4,6-9,18,22-23H,5,10-17,19H2,1H3,(H,30,35);2*1H/t22-;;/m1../s1
